18
C0100 1 0 1E-12
C0200 2 0 1E-12
C0300 3 0 1E-12
C0400 4 0 1E-12
G0001 0 1 5 2 7.2E-5
G0002 0 2 1 0 7.2E-5
M0606 6 6 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0708 7 8 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0306 3 6 0 0 NMOS L=1e-6 W=1e-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M0909 9 9 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1011 10 11 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0409 4 9 0 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1213 12 13 7 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1404 14 4 7 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1003 10 3 15 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1617 16 17 10 0 NMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0612 6 12 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1212 12 12 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1414 14 14 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0314 3 14 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M0915 9 15 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1515 15 15 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1616 16 16 18 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
M1816 18 16 4 18 PMOS L=1e-6 W=1e-6 1e-4 1 0.01 0.3 0.6 0.1e-6
V0500 5 0 1 0 0
V0800 8 0 0 0 1.5
V1100 11 0 0 0 1.5
V1300 13 0 1 0 2.5
V1700 17 0 0 0 2.5
V1800 18 0 0 0 5
.AC DEC 100 1 100e9
